* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7104-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 20u 3.5)
Rload OUT 0 7
C1 OUT 0 2.2µ Rser=1.5m
R1 OUT N001 100k
X§U1 IN OUT IN N001 OUT 0 ADP7104-2.5
.tran 3m startup
.lib ADP7104-2.5.sub
.backanno
.end
